US07935815B2
n-Butyl lithium (2.64 M solution in hexane, 1.1 ml) was added dropwise to a solution of diisopropylamine (0.45 ml) in THF (6 ml), and the reaction solution was stirred at −30° C. for 15 minutes. The reaction solution was cooled to −78° C. Hexamethylphosphoramide (0.75 ml) and a solution of methyl 2-(6,6-dimethyltetrahydropyran-2-yl)acetate (500 mg) in THF (3 ml) were sequentially added dropwise to the reaction solution, and the reaction solution was stirred at the same temperature for 20 minutes. 1-Chloro-3-iodopropane (0.43 ml) was added dropwise to the resulting reaction solution. The reaction solution was gradually heated, and then a saturated ammonium chloride solution was added to the reaction solution. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 278 mg of methyl 5-chloro-2-(6,6-dimethyltetrahydropyran-2-yl)valerate.

reactant | n-Butyl lithium | 2.64 M, 1.1 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.45 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-(6,6-dimethyltetrahydropyran-2-yl)acetate | 500 mg | CC1(CCCC(O1)CC(=O)OC)C | C10H18O3
reactant | 1-Chloro-3-iodopropane | 0.43 ml | ClCCCI | C3H6ClI
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Hexamethylphosphoramide | 0.75 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl 5-chloro-2-(6,6-dimethyltetrahydropyran-2-yl)valerate | 278 mg | ClCCCC(C(=O)OC)C1OC(CCC1)(C)C | C13H23ClO3
